US08580972B2
An aqueous slurry of Ni-Raney (containing 30 g of Ni on a dry basis) was washed with tetrahydrofuran, and added over a solution of 270 g (0.78 mol) of methyl 2-chloro-10-nitromethyl-10,11-dihydrodibenzo[b,f]oxepine-11-carboxylate (compound XIa), as obtained in Example 18, in 2.7 L of tetrahydrofuran. The suspension was stirred under 50-60 psi (3447-4136 hPa) of hydrogen at room temperature for 2 days. The catalyst was removed by filtration, and the resulting solution was concentrated under reduced pressure to obtain methyl 10-aminomethyl-2-chloro-10,11-dihydrodibenzo[b,f]oxepine-11-carboxylate (compound XIIa), which was used in the next step (see Example 20) without further purification.

reactant | methyl 2-chloro-10-nitromethyl-10,11-dihydrodibenzo[b,f]oxepine-11-carboxylate | 0.78 mol, 270 g | ClC1=CC2=C(OC3=C(C(C2C(=O)OC)C[N+](=O)[O-])C=CC=C3)C=C1 | C17H14ClNO5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 2.7 L | O1CCCC1 | C4H8O
catalyst | Ni | [Ni] | Ni
catalyst | Ni | 30 g | [Ni] | Ni
product | methyl 10-aminomethyl-2-chloro-10,11-dihydrodibenzo[b,f]oxepine-11-carboxylate | NCC1C(C2=C(OC3=C1C=CC=C3)C=CC(=C2)Cl)C(=O)OC | C17H16ClNO3
